US05003080
Crude (R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3oxohexanoate, 21 g (0.0924 mol), is dissolved in 940 mL of tetrahydrofuran and 190 mL of methanol under a nitrogen atmosphere. This solution is cooled to -85° C. and 95 mL of a 15% solution of methoxydiethylborane in tetrahydrofuran is added. The reaction is cooled to -97° C. and 6.5 9 (0.172 mol) of sodium borohydride is added in 0.5 g portions over 1.5 hours. The reaction is maintained between -93° C. and -97° C. for 13 hours and allowed to warm to room temperature and stand for 60 hours under a nitrogen atmosphere. The reaction is quenched by the addition of 25 mL (0.395 mol) acetic acid and concentrated by vacuum distillation to an oil. The residue is dissolved with 500 mL methanol, concentrated by vacuum distillation, redissolved with 500 mL methanol and reconcentrated by vacuum distillation to give a dark brown oil. This oil is taken up in 500 mL of ethyl acetate and filtered through a plug of silica gel with the aid of 250 mL of ethyl acetate The solution is evaporated to give 15 g of crude [R-(R*,R*)]-1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate which is used without further purification.

reactant | (R)-1,1-dimethylethyl 6-cyano-5-hydroxy-3oxohexanoate | C(#N)C[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C11H17NO4
reactant | methoxydiethylborane | COB(CC)CC | C5H13BO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | acetic acid | 0.395 mol, 25 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 940 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 190 mL | CO | CH4O
product | 1,1-dimethylethyl 6-cyano-3,5-dihydroxyhexanoate | C(#N)CC(CC(CC(=O)OC(C)(C)C)O)O | C11H19NO4
